Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
shellfish derived / Iodinated Contrast Media - IV Dye
 
Attending: ___.
 
Chief Complaint:
chest pain, dyspnea
 
Major Surgical or Invasive Procedure:
Left chest tube placement

 
History of Present Illness:
___ year old female with diffuse metastatic gastric 
adenocarcinoma
C___ FOLFOX on ___ presenting with new exertional dyspnea and
pleuritic chest pain. She states the dyspnea/pain has been
present since ___, gradually worsening. Worse with
movement/activity or deep breathing. No fevers, cough, nasal
congestion, rhinorrhea, headaches. No lower extremity swelling.
Notably, her most recent CT scans show a left pleural effusion
and she was scheduled for outpatient thoracentesis, but today 
the
shortness of breath and pleuritic pain since last night was so
dramatic she was referred into the ED. Note she DCd her lovenox
about 3 weeks ago after she completed a 6 month course for PVT
and scans showed resolution of this.

ED COURSE:
T 99.3  HR 114, BP 121/83  RR 18  100% RA.
CXR with New opacification of the left hemithorax, with 
rightward
mediastinal
shift, presumably due to enlargement of the known left pleural
effusion. 2. Opacifications in the right upper lobe corresponds
to a ground-glass mass identified on the prior chest CT.
Her labs showed WBC 4, Hct 27, plts 337, 71% pmns. chem
reassuring. ED placed a chest tube which drained 800cc
serosanguinous fluid. She received 4mg IV morphine x2, 1 mg IV
midazolam.

On arrival to the floor she has new left lateral and posterior
chest pain since tube insertion but states her breathing is
better after some drainage. Denies dysuria, nausea, vomiting,
headaches. Does report that she has some right upper thigh pain
which has been worsening, mostly painful on walking, but no
swelling. All other 10 point ROS neg.

 
Past Medical History:
- ___ Hospitalized at ___ with symptoms c/f 
cholecystitis, underwent lap CCY with biliary drain placement 
and removal, discharged home
- ___ presented to ___ with abdominal pain, nausea and 
vomiting, CT abdomen showed an ill-defined 
predominately-retroperitoneal soft tissue lesion
- ___ ERCP with narrowing at D2, unable to pass duodenoscope; 
revealed thick, irregular gastric folds, there was concern for 
an infiltrative process such as lymphoma or linitis plastica, 
gastrointestinal mucosal biopsies showed poorly differentiated 
adenocarcinoma (in 1 out of 4 tissue fragments); H pylori 
negative
- ___ MRCP revealed infiltrative process throughout the porta 
hepatis and retroperitoneum along with a non-occlusive main 
portal vein thrombus (started on anticoagulation)
- ___ ___ guided biliary drain placement (PTBD)
- ___ ___ guided FNA of anterior mesenteric LN, cytology was 
non-diagnostic due to insufficient cellular material
- ___ CEA 2.9, AFP 2.5, CA ___ 456
- ___ EGD with EUS, Gastric mucosa mucosal biopsies, shark core 
needle biopsy with poorly differentiate adenocarcinoma invading 
smooth muscle and likely submucosal tissue; HER2 immunostain 
pending; perigastric LN POSITIVE for malignant cells (metastatic 
adenocarcinoma, CK7, CK20 and CDX-2 positive); Ascites 
suspicious for malignant cells
- ___ port placement
- HER 2 testing returned negative 
- ___ ___ PTBD exchange, unable to complete procedure with 
cholangiogram due to pain
- ___ hospitalized at ___ with failure to thrive, 
malnutrition, abdominal pain. Underwent NJ tube placement which 
was dislodged and/or clotted on multiple occasions. Received 
C1D1 FOLFOX on ___. Started TPN via Power PICC that was placed 
on ___ underwent PTBD exchange due to new obstruction. 
Course c/b enterobacter bacteremia. Was started on IV 
antibiotics for a 14 day course (expected end date ___ 
- ___ C1D15 FOLFOX

PAST MEDICAL HISTORY:
- Asthma  
- Iron deficiency anemia (required IV iron infusions, had a 
colonoscopy approximately ___ years ago which was negative per her 
report) 
- GERD 
- s/p CCY
- Thalassemia trait
- Portal vein thrombus, now on Lovenox
- IV contrast allergy, requires premedications before contrast
 
Social History:
___
Family History:
Father - ___ and kidney cancer, HTN  
Mother - HLD, HTN, asthma
Paternal aunt - breast cancer ___
___ aunt - cancer of unknown type
Maternal grandmother - esophageal cancer, smoker
Maternal greatgrandmother - colon cancer, ___
 
Physical Exam:
PHYSICAL EXAM:
VITAL SIGNS: 99.2  122/80  108  24  97%RA
General:  NAD when not moving, can speak in full sentences, does
not appear dyspneic at rest
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary adenopathy, no thyromegaly
CV:  RR, NL S1S2 no S3S4 MRG
PULM:  decreased breath sounds throughout most of left lung 
field
GI:  BS+, soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis; no inguinal
adenopathy
SKIN:  No rashes or skin breakdown
NEURO: Oriented x3. Cranial nerves II-XII are within normal
limits excluding visual acuity which was not assessed, no
nystagmus; strength is ___ of the proximal and distal upper and
lower extremities; reflexes are 2+ of the biceps, triceps,
patellar, and Achilles tendons, toes are down bilaterally; gait
is normal, coordination is intact.

 
Pertinent Results:
___ 07:00PM PLEURAL  TOT PROT-5.3 GLUCOSE-85 LD(LDH)-477
___ 07:00PM PLEURAL  WBC-1089* ___ POLYS-46* 
LYMPHS-18* MONOS-3* EOS-1* MACROPHAG-16* OTHER-16*
___ 05:18PM   GLUCOSE-90 UREA N-12 CREAT-0.6 SODIUM-136 
POTASSIUM-3.8 CHLORIDE-99 TOTAL CO2-24 ANION GAP-17
___ 05:18PM   WBC-4.0 RBC-3.83* HGB-8.2* HCT-27.3* MCV-71* 
MCH-21.4* MCHC-30.0* RDW-18.3* RDWSD-45.1
___ 05:18PM   NEUTS-71.1* ___ MONOS-8.0 EOS-0.0* 
BASOS-0.5 IM ___ AbsNeut-2.84 AbsLymp-0.80* AbsMono-0.32 
AbsEos-0.00* AbsBaso-0.02
___ 05:18PM   PLT COUNT-337
___ 05:18PM   ___ PTT-27.5 ___

DC LABS:

___ 05:30AM BLOOD WBC-3.4* RBC-3.46* Hgb-7.2* Hct-24.4* 
MCV-71* MCH-20.8* MCHC-29.5* RDW-17.8* RDWSD-44.3 Plt ___
___ 05:30AM BLOOD Glucose-92 UreaN-4* Creat-0.5 Na-134 
K-3.6 Cl-100 HCO3-25 AnGap-13

CTA CHEST:
IMPRESSION:
 
 
1. No evidence of pulmonary embolus or acute aortic abnormality.
2. Large nonhemorrhagic left pleural effusion has increased in 
size with
associated collapse of the left lower lobe and minimal aeration 
of the left
upper lobe. A left pleural drain is not seen in the left pleural 
space as the
tip terminates posterior to the left posterior sixth rib.
3. Progression of right apical ground-glass mass opacity 
appearing more dense
and slightly larger.
4. Thickening of the left adrenal gland without nodularity.
5. Partially visualized common bile duct stent with pneumobilia 
and
cholecystectomy clips.
6. Multiple sclerotic lesions within the left clavicle, sternum, 
T4 and T12
vertebral bodies are again noted, unchanged compared to the 
prior study. No
evidence of acute fracture.

CXR:
IMPRESSION: 
 
1.  Interval removal of a left pigtail drainage catheter since 
___
with persistence of a small left apical pneumothorax.
2.  Slight interval increase in opacities in the left lung base 
since prior
exam may be due to a combination of atelectasis and pleural 
effusion.
 
 
Brief Hospital Course:
___ year old female with diffuse metastatic gastric 
adenocarcinoma C5D15 FOLFOX on ___ presenting with new 
exertional dyspnea and pleuritic chest pain found to have 
sizeable left sided pleural effusion with mediastinal shift, s/p 
CT placement.

# Dyspnea/shortness of breath/chest pain:
# L Pleural effusion with mediastinal shift, suspected 
malignant:
# Acute chest wall pain/pleuritis
# PTX
Found to have large left pleural effusion suspected to be 
malignant.  Chest tube placed in ED with initial drainage which 
became dislodged from the pleural space.  IP consulted and chest 
tube replaced with good drainage, total drainage >1.5L.  Exudate 
based on Light's criteria.  Cx NGTD.  Cytology sent.  She was 
treated supportively but notably had significant pain.  She was 
treated with IV and PO dilaudid and lidocaine patch.  CXR did 
show residual PTX which IP felt could be a component of trapped 
lung.  She ultimately remained stable and her CT was removed 
successfully.  Her pain improved thereafter and she was 
discharged with close onc and IP follow up.
- cytology PENDING on discharge
- IP follow up in ___ weeks
- Dilaudid increased to ___ PO TID prn for pain
- Fentanyl patch continued
- Should she require further chest tubes, please consider going 
directly to PCA for her pain.

# Right femur pain:
no swelling of the leg, no skin changes, not particularly tender 
on exam, pt reports that feels like bony pain and has been 
bothering her a great deal
- XRay neg for fx but mets noted.  Pain control as above

# Metastatic Gastric adeno CA:
# Acute on chronic cancer pain:
___ FOLFOX on ___.  Also with concern raised for new lung 
primary though oncologists felt this was less likely.  Will 
continue Fentanyl patch and prn dilaudid for breakthrough.  
Marinol started for anorexia and will cont benzo for nausea.
- Palliative care involved

DVT PROPHYLAXIS: Lovenox

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 1 PUFF IH Q6H:PRN Wheezing 
2. Calcium Carbonate 1000 mg PO QID:PRN Heartburn  
3. Docusate Sodium 100 mg PO BID:PRN Constipation 
4. Enoxaparin Sodium 140 mg SC DAILY 
5. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
6. Lidocaine Jelly 2% 1 Appl TP QID:PRN RUQ pain 
7. LORazepam 0.5-1 mg PO Q4H:PRN nausea/anxiety 
8. Nystatin Oral Suspension 5 mL PO QID:PRN Thrush 
9. Ondansetron 8 mg PO Q8H:PRN nausea 
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
11. Simethicone 40-80 mg PO QID:PRN gas pain 
12. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
INHALATION DAILY 
13. Ibuprofen 600 mg PO BID:PRN Pain - Mild 
14. Fentanyl Patch 100 mcg/h TD Q72H 
15. HYDROmorphone (Dilaudid) 8 mg PO Q8H:PRN Pain - Moderate 
16. Lidocaine 5% Patch 1 PTCH TD QAM 

 
Discharge Medications:
1.  Dronabinol 2.5 mg PO QHS  
2.  Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  
3.  HYDROmorphone (Dilaudid) ___ mg PO Q8H:PRN Pain - Moderate 
RX *hydromorphone 4 mg ___ tablet(s) by mouth three times a day 
Disp #*120 Tablet Refills:*0 
4.  Albuterol Inhaler 1 PUFF IH Q6H:PRN Wheezing  
5.  Calcium Carbonate 1000 mg PO QID:PRN Heartburn   
6.  Docusate Sodium 100 mg PO BID:PRN Constipation  
7.  Fentanyl Patch 100 mcg/h TD Q72H 
RX *fentanyl 50 mcg/hour 2 patchs applied transdermally every 72 
hours Disp #*10 Patch Refills:*0 
8.  Ibuprofen 600 mg PO BID:PRN Pain - Mild  
9.  Lidocaine 5% Patch 1 PTCH TD QAM  
10.  Lidocaine Jelly 2% 1 Appl TP QID:PRN RUQ pain  
11.  LORazepam 0.5-1 mg PO Q4H:PRN nausea/anxiety  
12.  Nystatin Oral Suspension 5 mL PO QID:PRN Thrush  
13.  Ondansetron 8 mg PO Q8H:PRN nausea  
14.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
15.  Simethicone 40-80 mg PO QID:PRN gas pain  
16.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
INHALATION DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left pleural effusion
Pleuritis
Gastric adenocarcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with fluid next to your left lung.  You 
required a chest tube for drainage.  Pathology was sent on the 
fluid.  You will need to follow up closely with your oncologist 
as well as with the pulmonary team.  Your pain medication has 
been adjusted slightly.  Please take all medications as 
prescribed.
 
Followup Instructions:
___